US04927838
The reaction was carried out as in Example 87 using the following reagents: sodium hydride (56% dispersion in oil; 8.6 g), dimethylsulfoxide (100 mL), (7-carboxyheptyl)triphenylphosphonium bromide (39.95 g), benzophenone (18.2 g), and tetrahydrofuran (100 mL). The crude acid, isolated in the usual manner, required further purification by HPLC (hexane-ether; 3:2). The appropriate fractions were combined and evaporated and the residue was crystallized from hexane to provide 14.1 g of 9,9-diphenyl-8-nonenoic acid, mp 77.5°-78.5° C. Anal. Calculated for C21H24O2 : C, 81.78; H, 7.84. Found: C, 81.71; H, 7.70.

reactant | sodium hydride | 8.6 g | [H-].[Na+]
reactant | dimethylsulfoxide | 100 mL | CS(=O)C | C2H6OS
reactant | (7-carboxyheptyl)triphenylphosphonium bromide | 39.95 g | [Br-].C(=O)(O)CCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | benzophenone | 18.2 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 9,9-diphenyl-8-nonenoic acid | 14.1 g | C1(=CC=CC=C1)C(=CCCCCCCC(=O)O)C1=CC=CC=C1 | C21H24O2
